US07977351B2
3-Ethyl-3H-furo[3,4-c]pyridin-1-one
A solution of 2,2,6,6-tetramethyl-piperidine (20.3 ml, 120 mmol) in a 250 ml round bottomed flask equipped with a magnetic stirrer, is put under argon atmosphere and 60 ml of dry THF is added. The reaction mixture is cooled to −78° C. by adding a controlled amount of dry ice to an acetone bath. The cooled reaction mixture is treated dropwise with nBuLi solution (64 mL of a 2.5 M solution in hexanes, 160 mmol) and the reaction is let stir at −78° C. for 0.5 h. A solution of isonicotinic acid (4.92 g, 40 mmol) in THF (60 mL) is added dropwise to the reaction at −78° C. The reaction is stirred at −78° C. for 1 h and is then warmed to −20° C. The reaction mixture is treated with propionaldehyde (7.2 ml, 100 mmol, 2.5 eq) dropwise at −50° C. The reaction is stirred at −20° C. for 2 h and warmed to room temperature overnight. The reaction mixture is concentrated and the residue is dissolved in water and ether. The aqueous layer is collected and extracted with dichloromethane and ether (6×50 ml). The aqueous phase is concentrated and the residue is dissolved in EtOH (30 mL) and acetic acid (2 mL) and heated at reflux overnight under argon. The reaction mixture is cooled to room temperature and concentrated. The residue is purified by chromatography (silica gel, MeOH/chloroform) to give the title compound (0.674 g, 10%) as an oil.

reactant | 2,2,6,6-tetramethyl-piperidine | 120 mmol, 20.3 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | dry ice | C(=O)=O | CO2
reactant | nBuLi | [Li]CCCC
reactant | isonicotinic acid | 40 mmol, 4.92 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | propionaldehyde | 100 mmol, 7.2 ml, 2.5 eq | C(CC)=O | C3H6O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-Ethyl-3H-furo[3,4-c]pyridin-1-one | 0.674 g, 10% | C(C)C1OC(C2=C1C=NC=C2)=O | C9H9NO2
